US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-aminobenzoic acid
tert-Butyl N-[5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-aminobenzoate (0.250 g, 0.455 mmol) was dissolved in formic acid (3.0 ml) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was concentrated and the obtained residue was recrystallized from methanol to obtain the titled compound (0.129 g, 0.261 mmol, 57%).

reactant | tert-Butyl N-[5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-aminobenzoate | 0.455 mmol, 0.250 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C1)OC(C)=O)C)=O | C30H31NO9
solvent | formic acid | 3.0 ml | C(=O)O | CH2O2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-aminobenzoic acid | 0.261 mmol, 0.129 g, 57% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C1)OC(C)=O)C)=O | C26H23NO9
